US07432258B2
d) [(1R)-1-(4-bromophenyl)-2-(4-morpholinyl)ethyl]methylamine
Crude 4-[(2R)-2-(4-Bromophenyl)-2-chloroethyl]morpholine (34.5 g) was dissolved in 200 mL of EtOH at room temperature with magnetic stirring. The resulting solution was cooled to 0° C. and treated with MeNH2 (71 mL, 33 wt % in EtOH) under N2. The reaction flask was capped with a rubber septum and the reaction mixture maintained at room temperature for 48 h. The mixture was then concentrated and the residue was partitioned between EtOAc and saturated aqueous NaHCO3. The organic layer was washed with brine, dried over MgSO4, and filtered. The filtrate was concentrated to yield the title compound as a yellow solid (32 g, 93%). MS (ES) m/e 300 [M+H]+.

reactant | 4-[(2R)-2-(4-Bromophenyl)-2-chloroethyl]morpholine | 34.5 g | BrC1=CC=C(C=C1)[C@H](CN1CCOCC1)Cl | C12H15BrClNO
reactant | MeNH2 | 71 mL | CN | CH5N
solvent | EtOH | 200 mL | CCO | C2H6O
product | [(1R)-1-(4-bromophenyl)-2-(4-morpholinyl)ethyl]methylamine | 32 g, 93% | BrC1=CC=C(C=C1)[C@H](CN1CCOCC1)NC | C13H19BrN2O
